US08802858B2
4-(1H-Benzoimidazol-2-yl)-furazan-3-ylamine
To an ice-cooled stirred solution of 13.2 g of hydroxylamine hydrochloride (190 mmol, 3 eq) in 20 ml of water, 15.3 g of potassium hydroxide (27.2 mmol, 4.3 eq) are slowly added. Then 60 ml of diglyme (diethylene glycol dimethyl ether) and 11.8 g of (1H-benzoimidazol-2-yl)-hydroxyimino-acetonitrile (63.4 mmol, 1 eq) are added. The ice-bath is removed and the reaction mixture is heated to reflux for 8 h (bath temperature 170° C.). After cooling to room temperature, the reaction mixture is filtered and the residue is washed with water to give the first crop of the desired product (6.2 g). The filtrate is treated with 150 ml of water. The resulting suspension is filtered and washed with water to provide a second product crop (2.17 g). Both crops are combined and used in the next step.

reactant | hydroxylamine hydrochloride | 190 mmol, 13.2 g, 3 eq | Cl.NO
reactant | potassium hydroxide | 27.2 mmol, 15.3 g, 4.3 eq | [OH-].[K+]
reactant | diglyme | 60 ml | COCCOCCOC | C6H14O3
reactant | (1H-benzoimidazol-2-yl)-hydroxyimino-acetonitrile | 63.4 mmol, 11.8 g, 1 eq | N1C(=NC2=C1C=CC=C2)C(C#N)=NO | C9H6N4O
solvent | water | 20 ml | O | H2O
product | 4-(1H-Benzoimidazol-2-yl)-furazan-3-ylamine | 6.2 g | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C9H7N5O
